US08557738B2
2,2-Dimethyl-5-(3-quinolinyl)-2,3-dihydro-benzo[f][1,4]oxazepine (Compound No. B1-9)
After carrying out nitrogen replacement on a dimethylformamide solution (15 mL) of 3-quinoline boronic acid (0.70 g, 4.07 mmol) and 2 M aqueous cesium carbonate solution (4.70 mL, 9.40 mol), tetrakis(triphenylphosphine)palladium (0.72 g, 0.63 mmol) and 5-chloro-2,2-dimethyl-2,3-dihydro-benzo[f][1,4]oxazepine (3.13 mmol) were added to this solution. This solution was then stirred for 14 hours while heating at 90° C. Subsequently, the reaction solution was cooled to room temperature followed by pouring in ethyl acetate (50 mL) and water (50 ml) and filtering with celite. The filtrate was extracted with ethyl acetate (100 mL) and the organic layer was washed with brine (50 mL) followed by drying with magnesium sulfate. After filtering, the solvent was distilled off under reduced pressure to obtain 0.50 g (53%) of the target compound by purifying the resulting residue by silica gel column chromatography (hexane:ethyl acetate=2:1).

reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | 3-quinoline boronic acid | 4.07 mmol, 0.70 g | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | cesium carbonate | 9.40 mol, 2 M, 4.70 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-chloro-2,2-dimethyl-2,3-dihydro-benzo[f][1,4]oxazepine | 3.13 mmol | ClC1=NCC(OC2=C1C=CC=C2)(C)C | C11H12ClNO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.63 mmol, 0.72 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-Dimethyl-5-(3-quinolinyl)-2,3-dihydro-benzo[f][1,4]oxazepine | 0.50 g, 53% | CC1(OC2=C(C(=NC1)C=1C=NC3=CC=CC=C3C1)C=CC=C2)C | C20H18N2O
